US04220772
5 G. of 2,4-diamino-6-chloropyrimidine-3-oxide are suspended in 50 ml. of dimethylformamide and 5 ml. of triethylamine and cooled to 0° C. while stirring. 4.3 G. of chloroformic acid 2-methoxyethyl ester are added dropwise to the cold suspension in the course of 15 minutes. The mixture is cooled for 2 hours and then stirred at room temperature for 16 hours. The solvent is distilled off at 25° C. in a high vacuum and the residue is digested with methylene chloride. The precipitate obtained is filtered off and washed with methylene chloride, methanol and water. The filtrate is washed with water and dried over sodium sulfate. By concentrating the solvent, there is obtained pure 2-methoxyethyl 2-amino-6-chloro-4-pyrimidinecarbamate-3-oxide having a melting point of 176°-178° C. Additional material is obtained by subjecting the mother liquor to chromatographical separation on silica gel.

reactant | 2,4-diamino-6-chloropyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)Cl | C4H5ClN4O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | chloroformic acid 2-methoxyethyl ester | COCCOC(=O)Cl | C4H7ClO3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-methoxyethyl 2-amino-6-chloro-4-pyrimidinecarbamate-3-oxide | NC1=NC(=CC(=[N+]1[O-])NC(=O)OCCOC)Cl | C8H11ClN4O4
